US08455646B2
Preparation of (R)-(4-fluoro-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C254)
To a solution of (R)-(4-fluoro-phenylamino)-phenyl-acetic acid (I253) (420 mg, 1.71 mmol) in dry THF (40 mL), are sequentially added (S)-quinuclidin-3-ol (218 mg, 1.71 mmol), DEAD (407 ul, 2.57 mmol) and triphenylphosphine (674 mg, 2.57 mmol). The reaction is refluxed for 30 minutes under N2 flowstream and then the solvent is evaporated. The residue is partitioned between water and EtOAc, the organic layer is separated, dried over Na2SO4, filtered and evaporated to dryness. The resulting crude is purified by flash chromatography (DCM/MeOH=95/5) to obtain the title compound as a pale yellow oil (480 mg, 79% yield).

reactant | (R)-(4-fluoro-phenylamino)-phenyl-acetic acid | 1.71 mmol, 420 mg | FC1=CC=C(C=C1)N[C@@H](C(=O)O)C1=CC=CC=C1 | C14H12FNO2
reactant | (S)-quinuclidin-3-ol | 1.71 mmol, 218 mg | N12C[C@H](C(CC1)CC2)O | C7H13NO
reactant | DEAD | 2.57 mmol, 407 ul | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 2.57 mmol, 674 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-(4-fluoro-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 480 mg, 79% yield | N12C[C@@H](C(CC1)CC2)OC([C@@H](C2=CC=CC=C2)NC2=CC=C(C=C2)F)=O | C21H23FN2O2
